US08034953B2
Step 1. N-{4-[4-(3-Bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-2,2,2-trifluoroacetamide
A solution of 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one (0.4 g, 1.2 mmol) in pyridine (6.5 mL) was treated with 4-dimethylaminopyridine (71 mg, 0.6 mmol) and trifluoroacetic anhydride (0.41 mL, 2.9 mmol) and stirred for 20 min. The reaction mixture was concentrated to a crude residue which was purified by silica gel to give the desired product (0.46 g, 89%). LCMS for C12H5BrF4N5O4 (M+H)+: m/z=438.0, 439.9.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-bromo-4-fluorophenyl)-1,2,4-oxadiazol-5(4H)-one | 1.2 mmol, 0.4 g | NC=1C(=NON1)C1=NOC(N1C1=CC(=C(C=C1)F)Br)=O | C10H5BrFN5O3
reactant | trifluoroacetic anhydride | 2.9 mmol, 0.41 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 6.5 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.6 mmol, 71 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-{4-[4-(3-Bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-2,2,2-trifluoroacetamide | 0.46 g, 89% | BrC=1C=C(C=CC1F)N1C(=NOC1=O)C=1C(=NON1)NC(C(F)(F)F)=O | C12H4BrF4N5O4
